US06730684B1
b) 2-(3-Acetamidophenoxy)benzoic Acid
To a stirred solution of methyl 2-(3-acetamidophenoxy)benzoate (4.7 g crude mixture) in dioxane (100 mL) was added 1.0 N NaOH (24 mL). After stirring at RT for 72 hr the reaction was acidified with 1.0 N HCl (24 mL) and extracted with EtOAc. The combined organic layers were washed with brine, dried (Mg SO4), and concentrated. The residue was purified by flash chromatography on silica gel (95:4:1 CHCl3/MeOH/AcOH) to give the crude title compound (2.2 g, 34%) as a beige solid: MS (ES) m/e 272.2 (M+H)+. The title compound prepared in this way contained approximately 46% of the diacid resulting from the di-ester starting material contaminant: MS (ES) m/e 392.2 (M+H)+. The mixture was used without further purification.

reactant | methyl 2-(3-acetamidophenoxy)benzoate | 4.7 g | C(C)(=O)NC=1C=C(OC2=C(C(=O)OC)C=CC=C2)C=CC1 | C16H15NO4
reactant | NaOH | 1.0 N, 24 mL | [OH-].[Na+]
reactant | HCl | 1.0 N, 24 mL | Cl | ClH
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 2-(3-Acetamidophenoxy)benzoic Acid | 2.2 g, 34% | C(C)(=O)NC=1C=C(OC2=C(C(=O)O)C=CC=C2)C=CC1 | C15H13NO4
